US06872690B2
Preparation of 4-methyl-6-phenylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine
To a solution of 2-bromo-4-methyl-6-(1-methyl-3-trifluoromethyl-pyrazol-5-yloxy)pyridine (3.0 g, 7.1 mmol), tetrakistriphenyl-phosphine palladium (0.2 g, 1.8 mmol) and 2,6-di-tert-butyl-4-methylphenol (3 crystals) in toluene (40 ml) under a nitrogen atmosphere is added dropwise tributyl-phenylethynyl-stannane (2.9 ml, 7.8 mmol) and the resulting mixture is heated at reflux for 2 hours. After cooling, the reaction mixture is diluted with ethyl acetate, washed with a saturated aqueous solution of sodium bicarbonate and dried. 43% of the product (1.1 g, mp. 56° C.) is obtained by flash chromatography.

reactant | 2-bromo-4-methyl-6-(1-methyl-3-trifluoromethyl-pyrazol-5-yloxy)pyridine | 7.1 mmol, 3.0 g | BrC1=NC(=CC(=C1)C)OC1=CC(=NN1C)C(F)(F)F | C11H9BrF3N3O
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | tributyl-phenylethynyl-stannane | 7.8 mmol, 2.9 ml | C(CCC)[Sn](C#CC1=CC=CC=C1)(CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-6-phenylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 1.1 g, 43% | CC1=CC(=NC(=C1)C#CC1=CC=CC=C1)OC1=CC(=NN1C)C(F)(F)F | C19H14F3N3O
